US05106871
Then, 13.05 g of the so-obtained 2'-hydroxy4,4',6'-trimethoxy-3'-(3-methyl-2-butenyl)chalcone was catalytically reduced by using 410 ml of ethyl acetate and 4.0 g of 5% palladium/carbon according to customary procedures, and after the reaction was conducted for 3 hours, the reaction liquid mixture was filtered, and the solvent was removed from the filtrate by distillation. The obtained residue was recrystallized from methanol to obtain 12.45 g (yield=94.11%) of 1-(2-hydroxy-4,6-dimethoxy-3-isopentylphenyl)-3-(4-methoxyphenyl)-1-propanone in the form of a light-yellow needle.

reactant | 2'-hydroxy4,4',6'-trimethoxy-3'-(3-methyl-2-butenyl)chalcone | 13.05 g | OC1=C(C(C=CC2=CC=C(C=C2)OC)=O)C(=CC(=C1CC=C(C)C)OC)OC | C23H26O5
catalyst | palladium/carbon | 4.0 g | [Pd] | Pd
solvent | ethyl acetate | 410 ml | C(C)(=O)OCC | C4H8O2
product | 1-(2-hydroxy-4,6-dimethoxy-3-isopentylphenyl)-3-(4-methoxyphenyl)-1-propanone | 12.45 g, yield=94.11% | OC1=C(C(=CC(=C1CCC(C)C)OC)OC)C(CCC1=CC=C(C=C1)OC)=O | C23H30O5
